US06211234B1
A solution of triphenylphosphine(5.48 g) in dry THF (35 mL) is treated with diisopropyl azodicarboxylate (4.23 g) at 0-5° C. and stirred for 15 minutes. The suspension is treated dropwise with a solution of methyl 4-benzyloxy-2-hydroxybenzoate (2.7 g) and 1-o-tolylethanol (1.42 g) in dry THF (35 mL) during 25 minutes at 0-5° C. and then stirred at 0-5° C. for 1 hour and at 25° C. for 24 hours. The mixture is evaporated and the residual gum purified by flash chromatography on silica, eluting with dichloromethane. Fractions homogeneous in the required product are combined and evaporated to yield methyl 4-benzyloxy-2-(1-o-tolyiethoxy)benzoate as a colourless oil (2.83 g, 72%). 1H NMR (CDCl3) 1.6(3H,d), 2.4(3H,s), 3.9(3H,s), 4.9(2H,s), 5.5(1H,q), 6.3(1H,s), 6.5(1H,d), 7.1-7.6(9H,m), 7.8(1H,d).

reactant | triphenylphosphine | 5.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 4.23 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | methyl 4-benzyloxy-2-hydroxybenzoate | 2.7 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)O | C15H14O4
reactant | 1-o-tolylethanol | 1.42 g | C1(=C(C=CC=C1)C(C)O)C | C9H12O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | methyl 4-benzyloxy-2-(1-o-tolyiethoxy)benzoate | 2.83 g, 72% | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)OC(C)C1=C(C=CC=C1)C | C24H24O4
